US09034900B2
4-[2-(trans-4-aminocyclohexyl)oxy-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one
A mixture of 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one (200 mg, 0.60 mmol), trans-4-aminocyclohexan-1-ol (278 mg, 2.42 mmol) and Cs2CO3 (591 mg, 1.81 mmol) in DMSO (4 mL) was stirred at 120° C. for 12 hrs. Water (20 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine (20 mL), dried over Na2SO4 and concentrated. The residue was purified by prep-HPLC to give the title compound (103.15 mg, 36.9%) as its hydrochloride salt. 1H NMR (DMSO-d6, 400 MHz) δ 8.28 (d, J=8.0 Hz, 1H), 8.10 (s, 3H), 7.95 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.80 (d, J=2.4 Hz, 1H), 7.63 (t, J=7.2 Hz, 1H), 7.51-7.49 (m, 3H), 7.14 (d, J=8.0 Hz, 1H), 4.50-4.44 (m, 1H), 3.56 (s, 3H), 3.22 (s, 3H), 2.95-2.85 (m, 1H), 2.00-1.94 (m, 2H), 1.84 (d, J=11.2 Hz, 2H), 1.47-1.41 (m, 2H), 1.20-1.12 (m, 2H). LCMS (M+H)+=427.1 (M+H)+

reactant | 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 0.60 mmol, 200 mg | FC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H14FNO3S
reactant | trans-4-aminocyclohexan-1-ol | 2.42 mmol, 278 mg | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | Cs2CO3 | 1.81 mmol, 591 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Water | 20 mL | O | H2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | 4-[2-(trans-4-aminocyclohexyl)oxy-5-methylsulfonylphenyl]-2-methylisoquinolin-1-one | 103.15 mg, 36.9% | N[C@@H]1CC[C@H](CC1)OC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C23H26N2O4S
